US08114868B2
4-Bromo-1-(3-hydroxy-2,2-dimethyl-propyl)-1H-pyridin-2-one
Lithium borohydride (25 mg) was added to a solution of 3-(4-bromo-2-oxo-2H-pyridin -1-yl)-2,2-dimethyl-propionic acid methyl ester (0.29 g) in tetrahydrofuran (3 mL) chilled in an ice bath. Then methanol (45 μL) was added and the mixture was stirred in the cooling bath for 1 h and at room temperature overnight. The mixture was diluted with tetrahydrofuran and MgSO4 was added. The mixture was filtered and the filtrate was concentrated. The residue was purified by chromatography on silica gel (cyclohexane/ethyl acetate 1:1) to afford the title compound as a colorless oil. Yield: 0.13 g (49% of theory); Mass spectrum (ESI+): m/z=260/262 (Br) [M+H]+.

reactant | Lithium borohydride | 25 mg | [BH4-].[Li+]
reactant | 3-(4-bromo-2-oxo-2H-pyridin -1-yl)-2,2-dimethyl-propionic acid methyl ester | 0.29 g | COC(C(CN1C(C=C(C=C1)Br)=O)(C)C)=O | C11H14BrNO3
reactant | methanol | 45 μL | CO | CH4O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
product | 4-Bromo-1-(3-hydroxy-2,2-dimethyl-propyl)-1H-pyridin-2-one | BrC1=CC(N(C=C1)CC(CO)(C)C)=O | C10H14BrNO2
